### ISSUE TITLE
Unexpected behavior of `local ext` and `scoped ext`

### ISSUE THREAD

**Issue by fgdorais** [leanprover/lean4#3643]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

The `@[local ext]`/`@[scoped ext]` variants don't work as expected when applied to structures. 

* The `.ext` and `.ext_iff` are unconditionally generated, which fails if the lemmas were already generated by an unrelated `@[local ext]` in a a dependency, for example. 

* The generated `.ext` lemma is unexpectedly marked plain `@[ext]` even when `@[local ext]` or `@[scoped ext]` is used. For example, one would expect `@[scoped ext] structure A ...` to work the same as:
```lean
structure A ...
@[scoped ext] protected theorem A.ext ...
```
* The generated `.ext` lemma has a sub-optimal signature. For the simple structure `structure A (α) where a : α` the generated extensionality lemma is `A.ext.{u_1} {α : Sort u_1} (x y : A α) (a : x.a = y.a) : x = y` but one would expect `x` and `y` to be implicit parameters. (Even the `Init.Ext` file has manually generated ext lemmas to work around this.)

### Context

These bugs were noticed in the discussion of [std4#611](https://github.com/leanprover/std4/pull/611). This issue is an expanded version of issue [std4#618](https://github.com/leanprover/std4/issues/618), migrated here since the `ext` tactic was moved from `Std` to core.

### Steps to Reproduce

Here are three self-contained examples illustrating the issues.

1. Applying @[ext] to a structure should not attempt to regenerate existing extensionality lemmas if they already exist.

```lean
@[local ext] structure S (α β : Type _) where 
  a : α
  b : β

/- unexpectedly fails
'S.ext' has already been declared
-/
attribute [local ext] S

/- works as expected -/
attribute [local ext] S.ext
```

2. The `@[local ext]` attribute should basically only generate the extensionality lemmas with no attributes.

```lean
-- Local example:

/- works -/
@[local ext] structure S1 (α β : Type _) where 
  a : α
  b : β

/- generated ext lemma
S1.ext.{u_1, u_2} {α : Type u_1} {β : Type u_2} (x y : S1 α β) (a : x.a = y.a) (b : x.b = y.b) : x = y
-/
#check S1.ext

/- unexpectedly works -/
example (x y : S1 Unit Unit) : x = y := by
  ext

-- But it should perhaps be equivalent to this code:

structure S2 (α β : Type _) where 
  a : α
  b : β

@[local ext] protected def S2.ext (x y : S2 α β) (a : x.a = y.a) (b : x.b = y.b) : x = y :=
  match x, y, a, b with | {..}, {..}, rfl, rfl => rfl

/- expectedly fails
error: no applicable extensionality theorem found for
  S2 Unit Unit
-/
example (x y : S2 Unit Unit) : x = y := by
  ext
```

3. The `@[scoped ext]` attribute should generate the extensionality lemmas, but only make them available when the structure's namespace is open.

```lean
-- Scoped example:

/- unexpectedly fails
error: scoped attributes must be used inside namespaces
-/
@[scoped ext] structure S1 (α β : Type _) where 
  a : α
  b : β

-- But it should probably be equivalent to this code:

structure S2 (α β : Type _) where 
  a : α
  b : β

@[scoped ext] protected def S2.ext (x y : S2 α β) (a : x.a = y.a) (b : x.b = y.b) : x = y :=
  match x, y, a, b with | {..}, {..}, rfl, rfl => rfl

/- expectedly fails
error: no applicable extensionality theorem found for
  S2 Unit Unit
-/
example (x y : S2 Unit Unit) : x = y := by
  ext

/- expectedly works -/
open S2 in
example (x y : S2 Unit Unit) : x = y := by
  ext
```

### Versions

After 4.7.0-rc1, when `ext` was moved from Std to core.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by kmill** [comment]
#4543 did not implement `@[scoped ext] structure` since that would be a more fundamental change to attribute processing, and if you still would want that feature please open a new issue, including a real-world use case.

The workaround is to apply the attribute inside a `namespace` block:
```lean
structure S1 (α β : Type _) where 
  a : α
  b : β

namespace S1
attribute [scoped ext] S1
end S1
```
